US08222246B2
f) 6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid
To 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (1.00 g, 2.79 mmol) in THF (6.25 mL), methanol (1.75 mL) and water (6.25 mL) was added lithium hydroxide (136 mg, 5.58 mmol). The reaction mixture was stirred overnight at room temperature. Addition of aqueous hydrochloride solution (1 N, 100 mL) and extraction with ethyl acetate yielded the title compound (1.00 g, 100%) as a white solid. MS: m/e=345.2 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 2.79 mmol, 1.00 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=C(C=C1)F)=O | C18H15FN2O5
reactant | lithium hydroxide | 5.58 mmol, 136 mg | [OH-].[Li+]
reactant | hydrochloride | 1 N, 100 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 6.25 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.75 mL | CO | CH4O
solvent | water | 6.25 mL | O | H2O
product | 6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 1.00 g, 100% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H13FN2O5
